US05849958
Preparation of 3-(p-Chlorophenyl)-3-cyclopropyl-2-fluoro-2-propen-l-ol, (E)- and (Z)-
A solution of ethyl p-chloro-β-cyclopropyl-α-fluorocinnamate, (E)- and (Z)- (32.25 g, 0.12 mol) in ether is added dropwise to a mixture of lithium aluminum hydride (5.46 g, 0.144 mol) in ether while maintaining the temperature at -55° C. After the addition is complete, the reaction mixture is warmed to and stirred at -20° C. for 90 minutes, quenched sequentially with ethyl acetate, methanol and 2N hydrochloric acid, and extracted with ether. The organic extracts are combined, washed sequentially with water, saturated sodium hydrogen carbonate solution and water, dried over anhydrous sodium sulfate, and concentrated in vacuo to give the title product as a colorless oil (26.4 g, 97%).

reactant | ethyl p-chloro-β-cyclopropyl-α-fluorocinnamate | ClC1=CC=C(C(=C(C(=O)OCC)F)C2CC2)C=C1 | C14H14ClFO2
reactant | lithium aluminum hydride | 0.144 mol, 5.46 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | CCOCC | C4H10O
product | 3-(p-Chlorophenyl)-3-cyclopropyl-2-fluoro-2-propen-l-ol | 26.4 g, 97% | ClC1=CC=C(C=C1)C(=C(CO)F)C1CC1 | C12H12ClFO
